US06967197B2
To a solution of N-(2-tetrahydropyranyloxy)-2-[(S)-7-(5-(4-ethylphenyl)-2-thienyl]-1,1-dioxoperhydro-4-propanesulfonyl-1,4-thiazepin-7-yl]acetamide (3.51 g) in methanol (8 ml) and chloroform (8 ml) was added toluenesulfonic acid monohydrate (112 mg). The resulting mixture was stirred for 4 hours at room temperature. The solvent was evaporated off to give a pale yellow solid. Silica gel column chromatography (eluent: methanol in chloroform from 0 to 4%) afforded N-hydroxy-2-[(S)-7-[5-(4-ethylphenyl)-2-thienyl]-1,1-dioxoperhydro-4-propanesulfonyl-1,4-thiazepin-7-yl]acetamide (2.41 mg) as a white solid.

reactant | N-(2-tetrahydropyranyloxy)-2-[(S)-7-(5-(4-ethylphenyl)-2-thienyl]-1,1-dioxoperhydro-4-propanesulfonyl-1,4-thiazepin-7-yl]acetamide | 3.51 g | O1C(CCCC1)ONC(C[C@@]1(CCN(CCS1(=O)=O)S(=O)(=O)CCC)C=1SC(=CC1)C1=CC=C(C=C1)CC)=O | C27H38N2O7S3
reactant | toluenesulfonic acid monohydrate | 112 mg | O.C=1(C(=CC=CC1)S(=O)(=O)O)C
solvent | methanol | 8 ml | CO | CH4O
solvent | chloroform | 8 ml | C(Cl)(Cl)Cl | CHCl3
product | N-hydroxy-2-[(S)-7-[5-(4-ethylphenyl)-2-thienyl]-1,1-dioxoperhydro-4-propanesulfonyl-1,4-thiazepin-7-yl]acetamide | 2.41 mg | ONC(C[C@@]1(CCN(CCS1(=O)=O)S(=O)(=O)CCC)C=1SC(=CC1)C1=CC=C(C=C1)CC)=O | C22H30N2O6S3
